US07858796B2
(1) 3-{1-[(2-aminoethyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
To a solution of 3-(1-{[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]sulfonyl}-4-piperidinyl)-5-phenyl-1H-indole-7-carboxamide (70 mg, 0.13 mmol) in EtOH (2 mL) at room temperature, hydrazine (0.3 mL) was added. The reaction mixture was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure and the resulting residue purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (26.9 mg, 50%).

reactant | 3-(1-{[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]sulfonyl}-4-piperidinyl)-5-phenyl-1H-indole-7-carboxamide | 0.13 mmol, 70 mg | O=C1N(C(C2=CC=CC=C12)=O)CCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C30H28N4O5S
reactant | hydrazine | 0.3 mL | NN | H4N2
solvent | EtOH | 2 mL | CCO | C2H6O
product | 3-{1-[(2-aminoethyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 26.9 mg, 50% | NCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C22H26N4O3S
